US05614544
Methyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]benzoate was reduced with lithium aluminum hydride in the same manner as in Reference Example 12 to yield 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]benzyl alcohol, which was then recrystallized from ethyl acetate-hexane to yield colorless plates having a melting point of 103°-104° C.

reactant | Methyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]benzoate | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C(=O)OC)C=C1 | C20H19NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]benzyl alcohol | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(CO)C=C1 | C19H19NO2
